************************************************************************
* auCdl Netlist:
* 
* Library Name:  cad3
* Top Cell Name: ring_osc
* View Name:     schematic
* Netlisted on:  Nov  9 21:31:49 2022
************************************************************************

*.EQUATION
*.SCALE METER
*.MEGA
.PARAM

*.GLOBAL vss!
+        vdd!

*.PIN vss!
*+    vdd!

************************************************************************
* Library Name: cad3
* Cell Name:    INVD1
* View Name:    schematic
************************************************************************

.SUBCKT INVD1 vi vo
*.PININFO vi:I vo:O
MM0 vo vi vss! vss! NMOS_VTL W=300n L=50n m=1
MM1 vo vi vdd! vdd! PMOS_VTL W=400n L=50n m=1
.ENDS

************************************************************************
* Library Name: cad3
* Cell Name:    NAND2
* View Name:    schematic
************************************************************************

.SUBCKT NAND2 a b z
*.PININFO a:I b:I z:O
MNMOS1 net1 b vss! vss! NMOS_VTL W=300n L=50n m=1
MNMOS0 z a net1 vss! NMOS_VTL W=300n L=50n m=1
MPMOS0 z a vdd! vdd! PMOS_VTL W=250.0n L=50n m=1
MPMOS1 z b vdd! vdd! PMOS_VTL W=250.0n L=50n m=1
.ENDS

************************************************************************
* Library Name: cad3
* Cell Name:    ring_osc
* View Name:    schematic
************************************************************************

.SUBCKT ring_osc osc_en osc_out
*.PININFO osc_en:I osc_out:O
XI13 net14 osc_out / INVD1
XI12 net12 net14 / INVD1
XI11 net10 net12 / INVD1
XI10 net8 net10 / INVD1
XI9 net6 net8 / INVD1
XI8 net4 net6 / INVD1
XI7 net2 net4 / INVD1
XI16 net1 net2 / INVD1
XI15 osc_en osc_out net1 / NAND2
.ENDS

